US06800760B2
LiHMDS (3-4 eq) was added to the benzimidazole acetate (1.0 eq) in THF (at a constant temperature ranging from −78° C. to 0° C.). After 20 minutes, a solution of the 2-aminobenzonitrile (1.1 eq) in THF was then added. The resulting mixture was allowed to warm to room temperature, stirred for 1-3 hours and was then heated to approx. 40° C.-65° C.(1 hour to 12 hours). The mixture was cooled to 0° C. and quenched with NH4Cl (aq, saturated). The aqueous phase was extracted with Ch2Cl2 or EtOAc, and the organic extracts were collected, dried (Na2SO4), and filtered. Evaporation of the solvent under reduced pressure and purification of the residue by silica gel chromatography or HPLC provided the 4-amino quinoline products.

reactant | LiHMDS | 3-4 eq | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | benzimidazole acetate | 1.0 eq | C(C)(=O)O.N1=CNC2=C1C=CC=C2
reactant | 2-aminobenzonitrile | 1.1 eq | NC1=C(C#N)C=CC=C1 | C7H6N2
solvent | THF | C1CCOC1 | C4H8O
product | 4-amino quinoline | NC1=CC=NC2=CC=CC=C12 | C9H8N2
